US06194410B1
A suspension of 2.5 g (6.8 mmol) of 3-benzenesulphonyl-5-methoxymethyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ol in 40 ml of POCl3 and 20 ml of diethylaniline was heated at reflux for 1 hr. The reaction solution was cooled to RT and evaporated. The residue was treated with 100 ml of ice-water and the pH value of the solution was adjusted to 8 with sat. NaHCO3 solution. The aqueous phase was extracted three times with 100 ml of CH2Cl2,and the organic phases were dried (MgSO4), filtered and evaporated. Chromatography (SiO2, CH2Cl2/MeOH 20:1) yielded 2.1 g (79%) of 3-benzenesulphonyl-7-chloro-5-methoxymethyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine as a pale yellow powder, m.p. 194-197°.

reactant | 3-benzenesulphonyl-5-methoxymethyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ol | 6.8 mmol, 2.5 g | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2O)COC)SC | C15H15N3O4S2
reactant | POCl3 | 40 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | diethylaniline | 20 ml | CCN(CC)C=1C=CC=CC1 | C10H15N
product | 3-benzenesulphonyl-7-chloro-5-methoxymethyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine | 2.1 g, 79% | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2Cl)COC)SC | C15H14ClN3O3S2
